US05795900
To a solution in DMSO (20 mL) of 4,4-bis(4-(2-quinolylmethoxy)phenyl)-pentan-1-ol (410 mg, 0.74 mmol), prepared as in Example 4, and 1,3-dicyclo-hexylcarbodiimnide (515 mg, 2.5 mmol) was added aqueous IM phosophoric acid (0.5 mL) and the resulting mixture was stirred at room temperature for 4 hours. Ethyl acetate (80 mL) was added and dicyclohexylurea was filtered off. The filtrate was washed with water and brine dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (methylene chloride-ethyl acetate 9:1) to afford 280 mg of 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanal.

reactant | 4,4-bis(4-(2-quinolylmethoxy)phenyl)-pentan-1-ol | 0.74 mmol, 410 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCCO)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C37H34N2O3
reactant | Ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanal | 280 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCC=O)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C37H32N2O3
